US07776885B2
Step 4. N-({1-[(4-Hydroxytetrahydro-2H-pyran-4-yl)methyl]piperidin-4-yl}methyl)-3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide hydrochloride
To a stirred solution of N-({1-[(4-hydroxytetrahydro-2H-pyran-4-yl)methyl]piperidin-4-yl}methyl)-3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide (27.0 g, 62 mmol) in methanol (150 mL) was added 10% HCl-methanol (100 mL) at ambient temperature. After 30 min, the volatile materials were removed by evaporation. The resulting amorphous was precipitated by ethanol/diethylether. The precipitate was recrystallized from ethanol/diethylether (1:1) to give 26.5 g (90%) of title compound as a colorless powder.

reactant | N-({1-[(4-hydroxytetrahydro-2H-pyran-4-yl)methyl]piperidin-4-yl}methyl)-3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide | 62 mmol, 27.0 g | OC1(CCOCC1)CN1CCC(CC1)CNC(=O)N1C(N(C2=C1C=CC=C2)C(C)C)=O | C23H34N4O4
reactant | HCl methanol | 100 mL | Cl.CO
solvent | methanol | 150 mL | CO | CH4O
product | N-({1-[(4-Hydroxytetrahydro-2H-pyran-4-yl)methyl]piperidin-4-yl}methyl)-3-isopropyl-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide hydrochloride | 26.5 g, 90% | Cl.OC1(CCOCC1)CN1CCC(CC1)CNC(=O)N1C(N(C2=C1C=CC=C2)C(C)C)=O | InChI=1S/C23H34N4O4.ClH/c1-17(2)26-19-5-3-4-6-20(19)27(22(26)29)21(28)24-15-18-7-11-25(12-8-18)16-23(30)9-13-31-14-10-23;/h3-6,17-18,30H,7-16H2,1-2H3,(H,24,28);1H
